Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
R Ankle Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with a history of T1DM, ESRD on ___ HD 
(being worked up for transplant), ___-___ syndrome, 
nephropathy, and blindness, who presented to the ED with right 
ankle pain.

He has noticed atraumatic swelling and redness of his right 
ankle x3 days. He reports a gradual onset of pain and swelling 
during that time. R ankle pain is exacerbated by palpation and 
movement of that joint. His mother reports that she also noticed 
a red area over his anterior proximal shin starting yesterday. 
Per recent dermatology notes, the patient does pick at his skin 
fairly often, although they deny specific trauma to this area. 
Received HD this morning.

Of note, he was recently admitted in ___ with L foot 
cellulitis and MSSA bacteremia. He then presented in early 
___ with weakness thought to be ___ acute on chronic anemia. 
He was readmitted in ___ for left elbow/arm pain thought to 
be likely septic arthritis of the left elbow that developed 
while
on cefazolin for MSSA bacteremia. Joint aspiration in the ED 
with >90k WBC, no crystals, negative Gram stain. S/p joint 
washout by Orthopedics. Presumed MSSA joint infection given 
history of prior MSSA. He was treated with linezolid (allergy to 
vancomycin - becomes neutropenic) and ceftazidime, then narrowed 
back to cefazolin after cultures returned negative (completed in 
___. 

He was last seen by ___ Podiatry on ___ for callus and 
toenail reduction. He is followed by Podiatry for diabetic 
ulcers, which appeared to be healing/closed. 

- In the ED, initial vitals were: T 101.4, HR 88, BP 169/64, RR 
16, O2 sat 100% RA
- Exam was notable for: redness and warmth of lateral R ankle 
without crepitus or effusion, R ankle intact range of motion 
without significant pain with
flexion/extension/inversion/eversion, palpable DP pulse, mild 
erythema and warmth but no tenderness over proximal R shin.
- Labs were notable for: Cl 91, Cr 2.9, lactate 1.1, WBC 8.3 
with 86% PMNs, Hgb 7.9, plt 77, BCx x2 obtained prior to 
starting antibiotics
- Studies were notable for: R ankle XR demonstrated diffuse soft 
tissue swelling of R ankle without acute fracture
- The patient was given: 3g IV unasyn
 
He is being admitted for presumed RLE cellulitis. On arrival to 
the floor, he confirms that he first noticed pain at the lateral 
R ankle on ___. His mother commented that his R ankle 
looked more swollen especially after HD on ___ and ___. Now 
has significant pain with R foot weight bearing and palpation of 
R lateral ankle. Does not recall any discharge or preceding 
trauma
or wounds to his R foot or ankle although notes that he has very 
poor sensation due to neuropathy. He endorses occasional chills 
over the past couple of days, no rigors or fevers which he 
experienced with previous infections. Denies nausea/vomiting, 
diarrhea, SOB, chest pain, myalgias. No recent changes in
medications except for starting NAC as prescribed by Dr. ___ 
(___) for itch. He thinks that the NAC has been 
effective at reducing his itching and scratching.
 
Past Medical History:
1. Diabetes mellitus, type I
2. Hypertension
3. ERSD on HD via right tunneled HD line placed ___. Anemia
5. Ehlers-Danlos
6. Osteoarthritis
7. Hypothyroidism
8. Blindness 
9. Reconstructive surgery for clubfeet
10. Left knee arthroplasty
11. Cataract surgery
___. Right knee AR
13. Chromosome 16 inversion
14. MSSA bacteremia (___)
15. Septic arthritis of L elbow (___)
16. Lower back pain (MRI on ___ showed neural foraminal 
narrowing with impingement of left L4 nerve root + grade 1 
anterolisthesis of L5 on S1)
 
Social History:
___
Family History:
- Father is ___ with diabetes.
- Mother is ___ with pre-diabetes.
- Brother is ___ with EDS.
- 2 sisters are ___ and ___ years old, healthy.
- MGF had early-age MI.
- Maternal aunt had early-age coronary artery disease requiring 
CABG.
- Has multiple siblings and family memembers with same 
chromosome 16 inversion
 
Physical Exam:
ADMISSION
=========
VITALS: ___ 1747 Temp: 100.3 PO BP: 181/79 HR: 104 RR: 18 
O2 sat: 93% O2 delivery: RA FSBG: 187 
GENERAL: Alert and interactive. Sitting in bed in no acute 
distress.
HEENT: NC/AT, sclera anicteric, R eyelid deformity, mucous 
membranes moist.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. ___ 
systolic murmur loudest at LUSB that radiates to LUE fistula.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, soft, non-distended, non-tender 
to palpation.
EXTREMITIES: Charcot feet. Erythema, swelling, and tenderness to 
palpation of lateral R ankle without red streaking or crepitus 
or discharge. Leading edge of erythema marked and uploaded to 
chart. Healing ulcerations on R dorsal midfoot and superior R 
hallux without surrounding erythema or edema. No obvious 
lacerations or wounds near R ankle. Pain at R lateral ankle with 
eversion,
inversion, flexion, and extension.
SKIN: Warm. A few erosions with crusting and dried blood on 
forehead and chest which pt attributes to "picking".
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.

DISCHARGE
=========
VITALS: Reviewed in eFlowsheets
GENERAL: Alert and oriented, no acute distress
ENT: MMM, EOMI
CV: RRR, referred murmur from AVF
RESP: CTAB, normal work of breathing
GI: NT/ND, BS+
EXT: Warm and well perfused, non-edematous. Left UE with AV
fistula with thrill and bruit. RLE with petechial rash extending
from ankle up to ___ of the anterior shin. The rash is improved
in extend and degree of erythema. The forefoot is no longer
erythematous. ___ pitting edema to the distal R foot.
NEURO: Alert and oriented. Blind at baseline, no other focal
neurologic deficits.
 
Pertinent Results:
ADMISSION
=========
___ 12:30PM   PLT COUNT-77*
___ 12:30PM   NEUTS-85.6* LYMPHS-5.3* MONOS-7.2 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-7.13* AbsLymp-0.44* AbsMono-0.60 
AbsEos-0.09 AbsBaso-0.02
___ 12:30PM   WBC-8.3 RBC-2.76* HGB-7.9* HCT-24.7* MCV-90 
MCH-28.6 MCHC-32.0 RDW-16.2* RDWSD-53.2*
___ 12:30PM   LACTATE-1.1
___ 12:30PM   estGFR-Using this
___ 12:30PM   GLUCOSE-153* UREA N-17 CREAT-2.9*# SODIUM-138 
POTASSIUM-4.1 CHLORIDE-91* TOTAL CO2-32 ANION GAP-15

IMAGING
=======
___ R Foot Xray:
Diffuse soft tissue swelling is seen about the ankle without 
soft tissue gas. The osseous structures are diffusely 
demineralized. No acute fracture or dislocation. No cortical 
destruction or osteolysis.  Ankle mortise appears symmetric.  
There is pes planus deformity with moderate to severe 
degenerative changes in the midfoot and hindfoot.  
Moderate-sized plantar and dorsal calcaneal spurs are present.  
Diffuse vascular calcifications are noted. 
IMPRESSION:
Diffuse soft tissue swelling involving the right ankle without 
acute fracture or dislocation.

___ R Foot Ultrasound
1. Fluid about the right peroneus longus and brevis tendons 
suggestive of 
tenosynovitis.
2. Marked skin thickening and soft tissue edema about the right 
lateral ankle compatible with cellulitis.
3. 1.1 cm fluid collection near the talus for which an abscess 
cannot be 
excluded on the basis of this exam.  If there is further 
clinical concern for abscess, consider MRI with contrast for 
further assessment.

DISCHARGE
=========
___ 08:11AM BLOOD WBC-5.4 RBC-3.14* Hgb-8.8* Hct-28.5* 
MCV-91 MCH-28.0 MCHC-30.9* RDW-16.5* RDWSD-55.5* Plt ___
___ 08:11AM BLOOD Neuts-74.2* Lymphs-14.1* Monos-6.1 
Eos-4.3 Baso-0.7 Im ___ AbsNeut-3.99 AbsLymp-0.76* 
AbsMono-0.33 AbsEos-0.23 AbsBaso-0.04
___ 08:11AM BLOOD Glucose-103* UreaN-41* Creat-6.8*# Na-138 
K-5.1 Cl-91* HCO3-26 AnGap-21*
___ 08:11AM BLOOD Calcium-9.7 Phos-4.8* Mg-2.0
___ 08:11AM BLOOD CRP-192.2*
 
Brief Hospital Course:
___ male with a history of T1DM, ESRD on ___ HD 
(being worked up for transplant) c/b anemia, Ehlers-Danlos 
syndrome, and blindness, who presented to the ED with right 
ankle pain, erythema, and swelling concerning for cellulitis. He 
was initially treated with unasyn and then augmentin, but the 
redness rapidly spread up his leg. He was transitioned to 
cefazolin with good response of the infection. He will need 3 
more infusions of cefazolin after dialysis to complete 7 day 
course of treatment (end date: ___

TRANSITIONAL ISSUES:
==================
[] consider increasing ___ insulin 70/30; his blood sugars were 
in the high 200s to mid ___ in the evening.
[] Patient will need 2g of cefazolin after HD on ___, and 
___. He will be finished with his course after these three 
doses.
[] advise repeat plt count at next visit to ensure resolution of 
thrombocytopenia

ACUTE/ACTIVE ISSUES
===================
# RLE Rash/cellulitis
Presented with 3 days of R ankle pain and chills, with erythema 
and swelling over R lateral ankle and left shift concerning for 
cellulitis. Exam was reassuring for lack of crepitus concerning 
for necrotizing fasciitis, also no discharge or fluctuance or 
signs of lymphangitis. R ankle XR without soft tissue gas or 
evidence of osteomyelitis or fracture. Ankle US without concern 
for joint involvement and no abscess. S/p unasyn in the ED, and 
then switched to augmentin: his pain improved, but a petechial 
rash spread quickly from R lateral maleolus all the way up the 
shin to just inferior to the knee in ~24h. This was concerning 
spread of infection through the superficial skin +/-lymphangitic 
spread c/w erysipelas. His exam improved within about 36 hours 
after one 3g dose of cefazolin with ___ HD. Given the 
improvement he was ready to discharged. He should receive 
cefazolin at his ___, and ___ HD appointments 
(end date: ___. 

# Thrombocytopenia
Chronic. Past peripheral smears notable for normal appearing 
platelets with small platelet aggregates, per Hematology 
suggests a component of "pseudothrombocytopenia" contributing to 
variably low platelet counts. Platelet initially as low as ___ 
on admission but improving with resolution of infection above, 
likely a reactive thrombocytopenia. Hemolysis labs negative.

# Chronic normocytic anemia
Thought to be ___ ESRD. Baseline Hgb appears to be ___, 
admission Hgb 7.9. Has had prior workup for anemia despite known 
renal disease given that the degree seems out of proportion, 
however no alternative explanation was found. Hemolysis labs 
again unrevealing this admission.

CHRONIC/STABLE ISSUES
=====================
# Pruritus
Pt shares that he frequently picks at his skin especially on 
forehead and chest. He is followed by Dr. ___ in ___ 
clinic. Pruritus thought to be related to underlying diabetes 
and ESRD. Pt has found N-acetylcysteine helpful at reducing 
itch/scratch, unfortunately it is non-formulary here. Continued 
hydrocortisone 2.5% cream prn for itch.

# ESRD
Likely ___ T1DM, has LUE fistula. Initiated on HD in ___. On 
___ HD. ontinued ___ HD while admitted and home 
torsemide 100mg QD, nephrocaps, sevelamer

# Diabetic foot ulcers
Seen by Podiatry ___. Foot ulcers appear to be healing well.

# T1DM
He continued home insulin 70/30 15 units BID with breakfast and 
dinner. His sugars at bedtime were still in the 300s. Consider 
increasing his ___ 70/30 dose.

# Hypertension. Continued home amlodipine 10mg QD and labetalol 
600mg BID.

# Hypothyroidism. Continued home levothyroxine 125 mcg daily 
___, 250 mcg on ___.

# Primary Prevention. Continued home atorvastatin. Pt not on ASA 
due to concern for GI bleed

# Glaucoma
Legally blind. Home brinzolamide drops non-formulary, 
substituted Dorzolamide drops BID while admitted. Continued 
brimonidine-timolol drops

ADVANCED PLANNING
=================
# CODE: full (presumed)
# CONTACT:
___
Relationship: Mother
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q12H 
4. Brinzolamide 1% Ophth (*NF* ) 1 drop Other Q12H 
5. Clindamycin 1% Solution 1 Appl TP DAILY 
6. Epoetin Alfa 5000 UNIT IV 3X/WEEK (___) anemia 
7. 70/30 15 Units Breakfast
70/30 15 Units Dinner
8. Labetalol 600 mg PO BID 
9. Levothyroxine Sodium 125 mcg PO 6X/WEEK (___) 
10. Levothyroxine Sodium 250 mcg PO 1X/WEEK (___) 
11. sevelamer CARBONATE 3200 mg PO BID 
12. Torsemide 100 mg PO QAM 
13. Acetaminophen 1000 mg PO Frequency is Unknown 
14. Multivitamins 1 TAB PO DAILY 
15. Nephrocaps 1 CAP PO DAILY 
16. NAC (acetylcysteine) 500 mg oral BID 

 
Discharge Medications:
1.  CeFAZolin 2 g IV POST HD (___) 
You will be administered this at dialysis on ___ and ___.  CeFAZolin 3 g IV QSAT 
You will be administered this at dialysis on ___.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
4.  70/30 15 Units Breakfast
70/30 15 Units Dinner 
5.  amLODIPine 10 mg PO DAILY  
6.  Atorvastatin 10 mg PO QPM  
7.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q12H  
8.  Brinzolamide 1% Ophth (*NF* ) 1 drop Other Q12H  
9.  Clindamycin 1% Solution 1 Appl TP DAILY  
10.  Epoetin Alfa 5000 UNIT IV 3X/WEEK (___) anemia  
11.  Labetalol 600 mg PO BID  
12.  Levothyroxine Sodium 125 mcg PO 6X/WEEK (___) 
 
13.  Levothyroxine Sodium 250 mcg PO 1X/WEEK (___)  
14.  Multivitamins 1 TAB PO DAILY  
15.  NAC (acetylcysteine) 500 mg oral BID  
16.  Nephrocaps 1 CAP PO DAILY  
17.  sevelamer CARBONATE 3200 mg PO BID  
18.  Torsemide 100 mg PO QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
=======
skin and soft tissue infection
cellulitis

Secondary
=========
End Stage Renal Disease
Diabetes Mellitus Type I
Glaucoma
Hypertension
___ Syndrome
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 
It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
- You had right ankle pain and a rash that was concerning for 
infection.
 
WHAT HAPPENED TO ME IN THE HOSPITAL? 
- An X-ray and ultrasound of your foot showed signs of swelling 
but no signs of infection in the ankle joint itself.

- You were treated with IV antibiotics.

- You received dialysis on you home schedule. You needed one 
unit of blood while you were here for low red blood cells.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- You will receive antibiotics at dialysis on ___ and 
___ this week and then stop antibiotics.
- Continue to take all your medicines and keep your 
appointments. 
- You should ask your doctor if the rash and infection has 
completely improved by ___. If not you may need a longer 
duration of antibiotics with dialysis.

We wish you the best! 

Sincerely, 

Your ___ Team 
 
Followup Instructions:
___